US07473694B2
Synthesis of tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate
To a methylene chloride (2 mL) solution containing tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate (0.693 mmol), triethylamine (290 μL, 2.08 mmol) and methanesulfonyl chloride (80 μL, 1.04 mmol) were added with ice-cooling, and the mixture was stirred for 30 min. After the reaction, 1 mol/L hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off to obtain the title compound.

reactant | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 0.693 mmol | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCO)C2=CC=C(C=C2)OCC | C31H44N6O6
reactant | triethylamine | 2.08 mmol, 290 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.04 mmol, 80 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCOS(=O)(=O)C)C2=CC=C(C=C2)OCC | C32H46N6O8S
